US04190662
EXAMPLE III--2,6 -Diethoxy-4-(trichloromethyl)pyridine
A solution was prepared by dissolving 17.24 grams (0.75 mole) of sodium metal in 400 ml of ethanol. To this solution was rapidly added a solution prepared by dissolving 137.48 grams (0.5 mole) of 6-chloro-2-ethoxy-4-(trichloromethyl)pyridine in 300 ml of ethanol at 35° C. The mixture was heated to reflux at 72° for ~42 hours and thereafter a solution of 8.62 grams of sodium metal dissolved in 200 ml of ethanol was added thereto and the mixture refluxed for about an additional 5 hours. The mixture was diluted with 500 ml of water after first removing 500 ml of ethanol. The mixture was extracted twice with methylene chloride and the methylene chloride layers combined and washed with water (an emulsion formed and ammonium chloride was added thereto and the mixture allowed to set 3 days (week-end) for the emulsion to break). The methylene chloride layer was dried over sodium sulfate, treated with activated charcoal and filtered. The methylene chloride was removed by evaporation and 150 ml of methanol was added thereto. The mixture was chilled and the 2,6-diethoxy-4-(trichloromethyl)pyridine product which precipitated was separated. The product was recrystallized from 150 ml of methanol and dried over methylene chloride. The product melted at 45.5°-47.0° C. and was recovered in a yield of 46 grams (32 percent of theoretical). The product was found by analysis to have carbon, hydrogen, and nitrogen contents of 42.12, 4.17 and 4.92 percent, respectively, as compared with the theoretical contents of 42.20, 4.25 and 4.92 percent, respectively, as calculated for the above-named compound. The structure of the compound was confirmed by NMR.

reactant | sodium | 0.75 mole, 17.24 grams | [Na] | Na
reactant | 6-chloro-2-ethoxy-4-(trichloromethyl)pyridine | 0.5 mole, 137.48 grams | ClC1=CC(=CC(=N1)OCC)C(Cl)(Cl)Cl | C8H7Cl4NO
reactant | sodium | 8.62 grams | [Na] | Na
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethanol | 400 ml | C(C)O | C2H6O
reactant | ethanol | 300 ml | C(C)O | C2H6O
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
product | 2,6 -Diethoxy-4-(trichloromethyl)pyridine | C(C)OC1=NC(=CC(=C1)C(Cl)(Cl)Cl)OCC | C10H12Cl3NO2
